US07728155B2
To a solution of (±)-5-(3-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxypropyl)indan-4-ol (6.78 g, 21.02 mmol) in tetrahydrofuran (210 mL) cooled to 0° C. was added triphenylphosphine (5.79 g, 22.07 mmol) followed by diethylazodicarboxylate (3.84 g, 22.07 mmol) and the reaction mixture was allowed to stir at room temperature overnight. The reaction mixture was quenched by the addition of water (10 mL) and the solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:7) provided 2.93 g (46%) of (±)-tert-butyl(dimethyl)(3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-ylmethoxy)silane as a colorless oil. Rf=0.86 (silica, ethyl acetate:hexanes 1:5); Anal. calcd. for C18H28O2Si: C, 71.0; H, 9.27. Found: C, 69.77; H, 9.21.

reactant | (±)-5-(3-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxypropyl)indan-4-ol | 21.02 mmol, 6.78 g | [Si](C)(C)(C(C)(C)C)OCC(CC1=C(C=2CCCC2C=C1)O)O | C18H30O3Si
reactant | triphenylphosphine | 22.07 mmol, 5.79 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 22.07 mmol, 3.84 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 210 mL | O1CCCC1 | C4H8O
product | (±)-tert-butyl(dimethyl)(3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-ylmethoxy)silane | 2.93 g, 46% | C(C)(C)(C)[Si](OCC1CC2=C(O1)C=1CCCC1C=C2)(C)C | C18H28O2Si
